US04939161
Methyl methacrylate (64.2 ml, 60.07 g, 0.6 mole) was added slowly at 0° C. (ice bath) to benzylamine (54.6 ml, 53.6 g, 0.5 mole) in 200 ml of methanol. The reaction solution was heated to reflux overnight. After being cooled, the solution was concentrated under vacuum to remove the excess of methyl methacrylate and methanol. Unreacted benzylamine was removed by heating the residue in a Kugelrohr oven under vacuum to yield the crude 3-phenylmethylamino-2-methyl-propanoic acid methyl ester (79.2 g, 76.41%).

reactant | Methyl methacrylate | 0.6 mole, 64.2 ml, 60.07 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | benzylamine | 0.5 mole, 54.6 ml, 53.6 g | C(C1=CC=CC=C1)N | C7H9N
solvent | methanol | 200 ml | CO | CH4O
product | 3-phenylmethylamino-2-methyl-propanoic acid methyl ester | 79.2 g, 76.41% | COC(C(CNCC1=CC=CC=C1)C)=O | C12H17NO2
